US06979747B2
1.2.1. N-(N-Boc-L-seryl)-2-aminoethanol (3)
A solution comprising 6.15 g (30 mmol) of N-Boc-L-serine (1, Fluka) and 3.45 g of N-hydroxysuccinimide (30 mmol) in 80 ml of DMF is stirred at 0° C. and 6.2 g (30 mmol) of DCC are added. The reaction mixture is maintained at 0° C. for 15 min, then it is allowed to return to ambient temperature and stirring is continued for 1 h 30. 2.75 ml (60 mmol) of ethanolamine are subsequently added. After stirring for 12 h, the DCU formed is filtered off and washed with 2×15 ml of DMF. The combined organic phases are evaporated to dryness under vacuum. The product is isolated from the residual paste by flash chromatography on a silica gel column (Kieselgel Merck 60, 230-400 mesh; eluent: CH2Cl2/MeOH 6%). The expected compound is collected in the form of a gum which crystallizes from an AcOEt/hexane mixture to provide 5.21 g (Yd=70%) of colorless needles. Rf (CH2Cl2/MeOH, 9.3/0.7): 0.23; (CH2Cl2/MeOH/AcOH, 9/0.9/0.1): 0.47. M.p.=74-76° C. [α]D20=−2.2° (c 0.9, CHCl3).

reactant | N-Boc-L-serine | 30 mmol, 6.15 g | C(=O)(OC(C)(C)C)N[C@@H](CO)C(=O)O | C8H15NO5
reactant | N-hydroxysuccinimide | 30 mmol, 3.45 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | DCC | 30 mmol, 6.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | ethanolamine | 60 mmol, 2.75 ml | C(O)CN | C2H7NO
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 MeOH AcOH | C(Cl)Cl.CO.CC(=O)O
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | N-(N-Boc-L-seryl)-2-aminoethanol | C(=O)(OC(C)(C)C)N[C@@H](CO)C(=O)NCCO | C10H20N2O5
